US06340759B1
The resulting 1-(4-ethylpiperazin-1-yl)-3-(4-benzyloxy-3,5-difluorophenyl)isoquinoline (6.44 g) was converted into a hydrochloride in a conventional manner. The hydrochloride was dissolved in methanol (200 ml), followed by the addition of 10% palladium/carbon catalyst (0.48 g), and then the catalytic reduction was conducted at atmospheric pressure overnight. The catalyst was filtered off, while the solvent was evaporated. Water was added to the resulting residue, followed by the addition of an aqueous solution of saturated sodium bicarbonate, and the mixture was extracted with chloroform. The extract was washed with brine, dried over magnesium sulfate, and the solvent was evaporated, to give obtain 1-(4-ethylpiperazin-1-yl)-3-(3,5-difluoro-4-hydroxyphenyl)isoquinoline (3.36 g) as a pale brown amorphous. Sodium hydride (0.04 g) was washed with n-hexane, suspended in N,N-dimethylformamide (2 ml) and stirred under ice-cooling. The above-described 1-(4-ethylpiperazin-1-yl)-3-(3,5-difluoro-4-hydroxyphenyl)isoquinoline (0.30 g) dissolved in N,N-dimethylformamide (2 ml) was added thereto, and the mixture was stirred at room temperature for 50 min. The mixture was again ice-cooled, followed by the addition of 2-methoxyethyl bromide (115 ml), and the mixture was stirred in nitrogen atmosphere at 50° C. overnight. Water was added to the reaction solution, and then it was extracted with ethyl acetate. The extract was washed with water and brine, and dried over magnesium sulfate. The solvent was evaporated, and the resulting residue was purified by silica gel column chromatography (chloroform/methanol system), to give 0.26 g of the free compound of the title compound as a brown viscous oil.

reactant | 1-(4-ethylpiperazin-1-yl)-3-(4-benzyloxy-3,5-difluorophenyl)isoquinoline | 6.44 g | C(C)N1CCN(CC1)C1=NC(=CC2=CC=CC=C12)C1=CC(=C(C(=C1)F)OCC1=CC=CC=C1)F | C28H27F2N3O
reactant | hydrochloride | Cl | ClH
solvent | methanol | 200 ml | CO | CH4O
catalyst | palladium/carbon | 0.48 g | [Pd] | Pd
product | 1-(4-ethylpiperazin-1-yl)-3-(3,5-difluoro-4-hydroxyphenyl)isoquinoline | 3.36 g | C(C)N1CCN(CC1)C1=NC(=CC2=CC=CC=C12)C1=CC(=C(C(=C1)F)O)F | C21H21F2N3O
